US20010044539A1
EX-18a) A suspension of potassium t-butoxide in toluene cooled to 0° C. in an ice bath under N2 is treated with cyclohexanone. To the reaction mixture is slowly added 3-butenyl bromide. The reaction is warmed to room temperature. The reaction is then poured into EtOAc and washed once with 10% potassium hydrogen sulfate. The organic solution is then washed with brine, dried over magnesium sulfate, and the solvent evaporated under reduced pressure to afford 2-(3-butenyl) cyclohexanone.

reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | 3-butenyl bromide | C(CC=C)Br | C4H7Br
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(3-butenyl) cyclohexanone | C(CC=C)C1C(CCCC1)=O | C10H16O
